US07842830B2
1,2-Bis-dodecyloxy-4-vinyl-benzene (JYC-II-004-A).
A round bottom flask was charged with Ph3PMeBr (8.79 g, 24.6 mmol), K2CO3 (3.4 g, 24.6 mmol), and 3,4-bis-dodecyloxy-benzaldehyde (10.0 g, 21.1 mmol) in a mixture of 25 mL of 1,4-dioxane and 0.3 mL of H2O. The reaction mixture was refluxed at 95° C. for 24 h. The reaction mixture was allowed to cool down to room temperature and extracted with CH2Cl2. The organic layer was washed with H2O and dried over anhydrous MgSO4. The solvent was removed under reduced pressure to give an off-white solid. The crude product was purified by column chromatography (silica gel, hexanes:dichloromethane=2:1 (v/v)) to give a white solid (6.53 g, 65.6%). 1H NMR (300 MHz, CDCl3, δ): 6.96 (d, J=1.9 Hz, 1H), 6.90 (dd, J=8.0 Hz, 1.9 Hz, 1H), 6.80 (d, J=8.2 Hz, 1H), 6.62 (dd, J=17.3 Hz, 10.7 Hz, 1H), 5.57 (dd, J=17.6 Hz, 0.5 Hz, 1H), 5.11 (d, J=11.5 Hz, 1H), 3.98 (q, J=6.6 Hz, 4H), 1.74-1.85 (m, 4H), 1.19-1.50 (m, 36H), 0.87 (t, J=6.6 Hz, 6H). 13C{1H} NMR (75 MHz, CDCl3, δ): 149.01, 148.98, 136.44, 130.63, 119.46, 113.44, 111.50, 111.18, 69.24, 32.00, 29.78, 29.72, 29.51, 29.45, 29.38, 29.34, 26.12, 22.78, 14.22. HRMS-EI (m/z): [M]+ calcd for C32H56O2, 472.4280; found, 472.4267. Anal. Calcd C32H56O2: C, 81.29; H, 11.94. Found: C, 81.36; H, 11.99.

reactant | K2CO3 | 24.6 mmol, 3.4 g | C(=O)([O-])[O-].[K+].[K+]
reactant | 3,4-bis-dodecyloxy-benzaldehyde | 21.1 mmol, 10.0 g | C(CCCCCCCCCCC)OC=1C=C(C=O)C=CC1OCCCCCCCCCCCC | C31H54O3
solvent | 1,4-dioxane | 25 mL | O1CCOCC1 | C4H8O2
solvent | H2O | 0.3 mL | O | H2O
product | 1,2-Bis-dodecyloxy-4-vinyl-benzene | 6.53 g, 65.6% | C(CCCCCCCCCCC)OC1=C(C=C(C=C1)C=C)OCCCCCCCCCCCC | C32H56O2
